US05698584
Step 1: 3-Chloro-4-methoxyphenoxyacetic acid
The above ethyl 3-chloro-4-methoxyphenoxyacetate (700 mg) was hydrolysed with 1M aq. NaOH in THF-MeOH (30 mL, 2:1) to provide the title compound as a white powder.

reactant | ethyl 3-chloro-4-methoxyphenoxyacetate | 700 mg | ClC=1C=C(OCC(=O)OCC)C=CC1OC | C11H13ClO4
reactant | NaOH | 1M | [OH-].[Na+]
solvent | THF MeOH | 30 mL | C1CCOC1.CO
product | 3-Chloro-4-methoxyphenoxyacetic acid | ClC=1C=C(OCC(=O)O)C=CC1OC | C9H9ClO4
